### PR TITLE
[Merged by Bors] - feat(Algebra/Lie): a Lie algebra is solvable iff it is solvable after faithfully flat base change

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Solvable.lean [hunk 1]
```diff
@@ -121,6 +123,21 @@ theorem abelian_iff_derived_succ_eq_bot (I : LieIdeal R L) (k : ℕ) :
     IsLieAbelian (derivedSeriesOfIdeal R L k I) ↔ derivedSeriesOfIdeal R L (k + 1) I = ⊥ := by
   rw [add_comm, derivedSeriesOfIdeal_add I 1 k, abelian_iff_derived_one_eq_bot]
 
+open TensorProduct in
+theorem derivedSeriesOfIdeal_baseChange {A : Type*} [CommRing A] [Algebra R A] (k : ℕ) :
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Solvable.lean:127]:
```suggestion
@[simp] theorem derivedSeriesOfIdeal_baseChange {A : Type*} [CommRing A] [Algebra R A] (k : ℕ) :
```

File: Mathlib/Algebra/Lie/Solvable.lean [hunk 2]
```diff
@@ -121,6 +123,21 @@ theorem abelian_iff_derived_succ_eq_bot (I : LieIdeal R L) (k : ℕ) :
...
+    derivedSeriesOfIdeal A (A ⊗[R] L) k (I.baseChange A) =
+      (derivedSeriesOfIdeal R L k I).baseChange A := by
+  induction k with
+  | zero => simp
+  | succ k ih => simp only [derivedSeriesOfIdeal_succ, ih, ← LieSubmodule.baseChange_top,
+    LieSubmodule.lie_baseChange]
+
+open TensorProduct in
+theorem derivedSeries_baseChange {A : Type*} [CommRing A] [Algebra R A] (k : ℕ) :
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Solvable.lean:136]:
```suggestion
@[simp] theorem derivedSeries_baseChange {A : Type*} [CommRing A] [Algebra R A] (k : ℕ) :
```

File: Mathlib/Algebra/Lie/Solvable.lean [hunk 3]
```diff
@@ -262,6 +279,27 @@ theorem derivedSeries_lt_top_of_solvable [IsSolvable L] [Nontrivial L] :
...
+variable {A : Type*} [CommRing A] [Algebra R A] [Module.FaithfullyFlat R A] in
+theorem isSolvable_tensorProduct_iff : IsSolvable (A ⊗[R] L) ↔ IsSolvable L := by
+  refine ⟨?_, fun _ ↦ inferInstance⟩
+  rw [isSolvable_iff A, isSolvable_iff R]
+  rintro ⟨k, h⟩
+  use k
+  rw [eq_bot_iff] at h ⊢
+  intro x hx
+  rw [derivedSeries_baseChange] at h
+  specialize h <| Submodule.tmul_mem_baseChange_of_mem (1:A) hx
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Solvable.lean:299]:
```suggestion
  specialize h <| Submodule.tmul_mem_baseChange_of_mem 1 hx
```

**Review by ocfnash — APPROVED** [review]
I like where this is heading :)

Thanks!

bors d+
